US08022063B2
[4-Bromo-2-(2-phenyloxazol-4-yl)phenoxy]acetic acid.
Title compound was prepared from [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester and benzamide according to GP5 and GP3: LC/MS (an10p8) Rt 2.6 min, m/z 374/376 [M+H]+.

reactant | [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)C(CBr)=O)=O | C12H12Br2O4
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
product | [4-Bromo-2-(2-phenyloxazol-4-yl)phenoxy]acetic acid | BrC1=CC(=C(OCC(=O)O)C=C1)C=1N=C(OC1)C1=CC=CC=C1 | C17H12BrNO4
